US06159904
A 100-ml three-necked round-bottomed flask was charged with 2.98 g (14.65 mmol) of 2-acetyl-4,5-dichlorotoluene, 1.72 g (12.84 mmol) of 3-mercaptopivalic acid and 15 ml of N,N-dimethylformamide under nitrogen atmosphere. Then, 3.04 g (22.00 mmol) of potassium carbonate was added. The reaction mixture was heated at 100~110° C. for 6 hours under nitrogen atmosphere. The reaction mixture was allowed to cool to room temperature, and about 150 ml of water was added. The mixture was washed with chloroform twice, and an aqueous layer was neutralized and acidified with a 5 wt % hydrochloric acid aqueous solution. A precipitated gummy substance was extracted with ethyl acetate, and an organic layer was washed with a 1 wt % hydrochloric acid aqueous solution, with water and with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. Then, the solvent was distilled off under reduced pressure to give 3.02 g (yield 78%) of 3-(4-acetyl-2-chloro-methylphenylthio)pivalic acid.

reactant | 2-acetyl-4,5-dichlorotoluene | 14.65 mmol, 2.98 g | C(C)(=O)C1=C(C=C(C(=C1)Cl)Cl)C | C9H8Cl2O
reactant | 3-mercaptopivalic acid | 12.84 mmol, 1.72 g | SCC(C(=O)O)(C)C | C5H10O2S
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 22.00 mmol, 3.04 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | about 150 ml | O | H2O
product | 3-(4-acetyl-2-chloro-methylphenylthio)pivalic acid | 3.02 g, yield 78% | C(C)(=O)C1=C(C(=C(C=C1)SCC(C(=O)O)(C)C)Cl)C | C14H17ClO3S
